US06747023B1
1,4-Dibenzyl-2-[2-(1-piperidinyl)ethyl]piperazine
In methanol (10 mL) were dissolved 1,4-dibenzyl-2-(formylmethyl)piperazine (600 mg) and piperidine (200 mg). After stirring for 30 minutes, the solvent was concentrated under reduced pressure. The concentrate was dissolved in methanol (10 mL), followed by the addition of sodium borohydride (147 mg). The resulting mixture was stirred. Five hours later, the solvent was distilled off under reduced pressure. Chloroform was added to the residue and the mixture was washed with a saturated aqueous solution of sodium bicarbonate. The organic layer was dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (methylene chloride:methanol=10:1→5:1), whereby the title compound (640 mg) was obtained as a colorless oil.

reactant | 1,4-dibenzyl-2-(formylmethyl)piperazine | 600 mg | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CC=O | C20H24N2O
reactant | piperidine | 200 mg | N1CCCCC1 | C5H11N
solvent | methanol | 10 mL | CO | CH4O
product | 1,4-Dibenzyl-2-[2-(1-piperidinyl)ethyl]piperazine | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CCN1CCCCC1 | C25H35N3
